US05089654
To a solution of 47.3 g of 4-t-butyl-2'-ethoxycarbonylmethoxy-4'-(3-methyl-2-butenyloxy)chalcone in 600 ml of ethanol was added a solution of 29.0 g of potassium carbonate in 100 ml of water, the mixture was stirred at 45° C. for 8 hours. After neutralization with dilute sulfuric acid, the precipitated solid was collected by filtration, washed with water, dried and recrystallized from ethanol to give 29.9 g of 4-t-butyl-2'-carboxymethoxy-4'-(3-methyl-2-butenyloxy)chalcone as pale yellow needles.

reactant | 4-t-butyl-2'-ethoxycarbonylmethoxy-4'-(3-methyl-2-butenyloxy)chalcone | 47.3 g | C(C)(C)(C)C1=CC=C(C=C1)C=CC(=O)C1=C(C=C(C=C1)OCC=C(C)C)OCC(=O)OCC | C28H34O5
reactant | potassium carbonate | 29.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 4-t-butyl-2'-carboxymethoxy-4'-(3-methyl-2-butenyloxy)chalcone | 29.9 g | C(C)(C)(C)C1=CC=C(C=C1)C=CC(=O)C1=C(C=C(C=C1)OCC=C(C)C)OCC(=O)O | C26H30O5
